US05095022
Ethyl 4-(dibenz[b,e]oxepin-11(6H)-ylidene)-1-piperidinepropionate
A mixture of 3.61 g of 4-(dibenz[b,e]oxepin-11(6H)-ylidene)piperidine, 2.6 g of ethyl 3-bromopropionate, 1.8 g of potassium carbonate and 25 ml of N,N-dimethylformamide was stirred at 80° C. for 2 hrs. After cooling, water was added to the reaction mixture and extracted with ether. The ether layer was washed with water and extracted with hydrochloric acid. The aqueous layer was made alkaline with potassium carbonate and extracted with ether. The ether layer was washed with water, dried and concentrated to give 4.2 g of yellowish brown liquid, which was purified by column chromatography on silica gel (eluent: chloroform) to give 3.9 g of pale yellow liquid.

reactant | 4-(dibenz[b,e]oxepin-11(6H)-ylidene)piperidine | 3.61 g | C1=CC=CC=2OCC3=C(C(C21)=C2CCNCC2)C=CC=C3 | C19H19NO
reactant | ethyl 3-bromopropionate | 2.6 g | BrCCC(=O)OCC | C5H9BrO2
reactant | potassium carbonate | 1.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Ethyl 4-(dibenz[b,e]oxepin-11(6H)-ylidene)-1-piperidinepropionate | 4.2 g | C1=CC=CC=2OCC3=C(C(C21)=C2CCN(CC2)CCC(=O)OCC)C=CC=C3 | C24H27NO3
